US07285558B2
A solution of 49 mg (0.23 mmol) 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione and 44 mg (0.23 mmol) 6-chloroquinoline-4-carbaldehyde in 1 mL DMF was stirred at room temperature for 5 h to form 6-chloroquinoline-4-carbaldehyde[3-(cyclopropylmethyl)-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl]hydrazone. Added was 38 mg (0.34 mmol) 1-methyl-1H-imidazole-5-carbaldehyde and 20 μL piperidine. The mixture was heated at 110° C. for 12 via microwave irradiation. Purification was achieved by preparative HPLC (20%-40% gradient of CH3CN-water with 0.1% TFA) to give the title compound as the bis-TFA salt.

reactant | 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione | 0.23 mmol, 49 mg | C1(CC1)CN1C(N(C(C=C1NN)=O)C)=O | C9H14N4O2
reactant | 6-chloroquinoline-4-carbaldehyde | 0.23 mmol, 44 mg | ClC=1C=C2C(=CC=NC2=CC1)C=O | C10H6ClNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-chloroquinoline-4-carbaldehyde[3-(cyclopropylmethyl)-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl]hydrazone | C1(CC1)CN1C(N(C(C=C1NN=CC1=CC=NC2=CC=C(C=C12)Cl)=O)C)=O | C19H18ClN5O2
